US08664217B2
7-(3-Chloropropoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (2.18 g, 6.4 mmol) and sodium iodide (4.8 g, 32 mmol) were added to acetone (50 ml), and heated under reflux for 8.5 hours. The reaction mixture was cooled to room temperature, water was added, and extraction with ethyl acetate was performed. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1). The purified product was concentrated under reduced pressure to thereby obtain 2.76 g (yield: 100%) of 1-ethyl-7-(3-iodopropoxy)-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione as a colorless oil.

reactant | 7-(3-Chloropropoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 6.4 mmol, 2.18 g | ClCCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C17H23ClN2O3
reactant | sodium iodide | 32 mmol, 4.8 g | [I-].[Na+]
reactant | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 1-ethyl-7-(3-iodopropoxy)-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 2.76 g, yield: 100% | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCI | C17H23IN2O3
